US07449460B2
4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-methoxy-7-(4-pyrrolidin-1-ylpiperidin-1-yl)quinoline-3-carbonitrile
Following the procedure of Example 11, a mixture of 200.0 mg (0.51 mmol) of 4-(2,4-dichloro-5-methoxyanilino)-7-fluoro-6-methoxy-3-quinolinecarbonitrile and 472.0 mg (3.06 mmol) of 4-(1-pyrrolidinyl)piperidine in 1.0 mL of 1-methyl-2-pyrrolidinone is heated in a sealed tube at 105° C. for 15 hours to yield the crude product. Purification by preparative thin layer chromatography (eluting with 4:1 dichloromethane/methanol) provides 116.5 mg of the pure product as a yellow solid, mp 225-227° C.

reactant | 4-(2,4-dichloro-5-methoxyanilino)-7-fluoro-6-methoxy-3-quinolinecarbonitrile | 0.51 mmol, 200.0 mg | ClC1=C(NC2=C(C=NC3=CC(=C(C=C23)OC)F)C#N)C=C(C(=C1)Cl)OC | C18H12Cl2FN3O2
reactant | 4-(1-pyrrolidinyl)piperidine | 3.06 mmol, 472.0 mg | N1(CCCC1)C1CCNCC1 | C9H18N2
solvent | 1-methyl-2-pyrrolidinone | 1.0 mL | CN1C(CCC1)=O | C5H9NO
product | 4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-methoxy-7-(4-pyrrolidin-1-ylpiperidin-1-yl)quinoline-3-carbonitrile | 116.5 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C(C=NC2=CC(=C(C=C12)OC)N1CCC(CC1)N1CCCC1)C#N | C27H29Cl2N5O2
